US04128644
C. 2-[2-[[(4-Methylphenyl)sulfonyl]oxy]ethyl]-pyrazolo-[1,5-c]quinazolin-5(6H)-one
12.0 g (0.052 mole) of 2-(2-hydroxyethyl)-pyrazolo-[1,5-c]quinazolin-5(6H)-one is taken up in pyridine (120 ml), cooled down to 0° and treated with 11.0 g (0.058 mole or 1.1 equivalent) of 98% tosyl chloride. The mixture is stirred for 4 hours, keeping the temperature below 20° during the reaction period, after which it is poured onto 1.8 l. of ice-water and stirred until solids form. The off-white precipitates are filtered off and dried in vacuo at 100° for 3 hours. Yield: 17.43 g, m.p. 194°-196°; 87.4% crude yield.

reactant | 2-(2-hydroxyethyl)-pyrazolo-[1,5-c]quinazolin-5(6H)-one | 0.052 mole, 12.0 g | OCCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C12H11N3O2
reactant | tosyl chloride | 0.058 mole, 11.0 g, 1.1 equivalent | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-[[(4-Methylphenyl)sulfonyl]oxy]ethyl]-pyrazolo-[1,5-c]quinazolin-5(6H)-one | CC1=CC=C(C=C1)S(=O)(=O)OCCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C19H17N3O4S
